US05900475
Preparation of (3-chloropropyl)hexyldimethylammonium bromide
A 500 mL, 3-necked, round-bottomed flask equipped with air condensers and a magnetic stirring plate was charged with N,N-dimethylhexylamine (199.46 grams, 1.54 moles), 1-bromo-3-chloropropane (243.00 grams, 1.54 moles) and 250 mL of methanol The reaction was maintained at 65° C. for 24 hours. Solvent was removed by rotary evaporation under reduced pressure to yield a brown, viscous oil. Yield 445.8 grams (1.55 moles, 100%).

reactant | N,N-dimethylhexylamine | 1.54 moles, 199.46 grams | CN(C)CCCCCC | C8H19N
reactant | 1-bromo-3-chloropropane | 1.54 moles, 243.00 grams | BrCCCCl | C3H6BrCl
solvent | methanol | 250 mL | CO | CH4O
product | (3-chloropropyl)hexyldimethylammonium bromide | [Br-].ClCCC[N+](C)(C)CCCCCC | InChI=1S/C11H25ClN.BrH/c1-4-5-6-7-10-13(2,3)11-8-9-12;/h4-11H2,1-3H3;1H/q+1;/p-1
